### PR TITLE
[Merged by Bors] - feat(Data/Finsupp): add degree_sum

### PR DESCRIPTION
**Pull request by WenrongZou**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finsupp/Weight.lean [hunk 1]
```diff
@@ -214,6 +214,12 @@ theorem degree_eq_sum [Fintype σ] (f : σ →₀ R) : f.degree = ∑ i, f i :=
 theorem degree_add (a b : σ →₀ R) : (a + b).degree = a.degree + b.degree :=
   sum_add_index' (h := fun _ ↦ id) (congrFun rfl) fun _ _ ↦ congrFun rfl
 
+theorem degree_sum {α : Type*} [DecidableEq α] {s : Finset α} (f : α → σ →₀ ℕ) :
+    (∑ i ∈ s, f i).degree = ∑ i ∈ s, (f i).degree := by
+  refine Finset.induction rfl ?_ s
```
Comment (LLaurance) [inline Mathlib/Data/Finsupp/Weight.lean]:
```suggestion
  refine s.induction rfl ?_
```

File: Mathlib/Data/Finsupp/Weight.lean [hunk 2]
```diff
@@ -214,6 +214,12 @@ theorem degree_eq_sum [Fintype σ] (f : σ →₀ R) : f.degree = ∑ i, f i :=
...
+  · rintro a s hs hs'
+    rw [Finset.sum_insert hs, Finset.sum_insert hs, degree_add, hs']
```
Comment (LLaurance) [inline Mathlib/Data/Finsupp/Weight.lean]:
```suggestion
  intro a s hs hs'
  rw [Finset.sum_insert hs, Finset.sum_insert hs, degree_add, hs']
```

**Comment by WenrongZou** [comment]
Thank you for your suggestions!

File: Mathlib/Data/Finsupp/Weight.lean [hunk 3]
```diff
@@ -214,6 +214,12 @@ theorem degree_eq_sum [Fintype σ] (f : σ →₀ R) : f.degree = ∑ i, f i :=
 theorem degree_add (a b : σ →₀ R) : (a + b).degree = a.degree + b.degree :=
   sum_add_index' (h := fun _ ↦ id) (congrFun rfl) fun _ _ ↦ congrFun rfl
 
+theorem degree_sum {α : Type*} [DecidableEq α] {s : Finset α} (f : α → σ →₀ ℕ) :
+    (∑ i ∈ s, f i).degree = ∑ i ∈ s, (f i).degree := by
```
Comment (JovanGerb) [inline Mathlib/Data/Finsupp/Weight.lean]:
```suggestion
theorem degree_sum {ι : Type*} [DecidableEq ι] {s : Finset ι} (f : ι → σ →₀ ℕ) :
    (∑ i ∈ s, f i).degree = ∑ i ∈ s, (f i).degree := by
```
I think we usually use `ι` for indexing types.

Comment (WenrongZou) [reply Mathlib/Data/Finsupp/Weight.lean]: Thank you for suggestion about notation.

**Comment by JovanGerb** [comment]
Arguably this could be a `@[simp]` lemma, similarly to `degree_add`?

File: Mathlib/Data/Finsupp/Weight.lean
Comment (jcommelin) [inline Mathlib/Data/Finsupp/Weight.lean]:
```suggestion
/-- The degree of a finitely supported function. -/
def degree (d : σ →₀ R) : R := ∑ i ∈ d.support, d i

theorem degree_eq_sum [Fintype σ] (f : σ →₀ R) : f.degree = ∑ i, f i := by
  rw [degree, Finset.sum_subset] <;> simp

@[simp]
theorem degree_zero : degree (0 : σ →₀ R) = 0 := by simp [degree]

@[simp]
theorem degree_add (a b : σ →₀ R) : (a + b).degree = a.degree + b.degree :=
  sum_add_index' (h := fun _ ↦ id) (congrFun rfl) fun _ _ ↦ congrFun rfl

/-- The degree of finitely supported functions as an `AddMonoidHom`. -/
@[simps]
def degreeAddHom : (σ →₀ R) →+ R where
  toFun := degree
  map_zero' := degree_zero
  map_add' := degree_add

@[simp]
theorem degree_sum {ι : Type*} {s : Finset ι} (f : ι → σ →₀ ℕ) :
    (∑ i ∈ s, f i).degree = ∑ i ∈ s, (f i).degree :=
  map_sum degreeAddHom f s

@[simp]
theorem degree_single (a : σ) (r : R) : (Finsupp.single a r).degree = r :=
  Finsupp.sum_single_index (h := fun _ => id) rfl
```

**Review by jcommelin — COMMENTED** [review]
Let's use this opportunity to also add `degree` as homomorphism.

Also, the statement didn't need decidable equality, so we can drop that assumption.

File: Mathlib/Data/Finsupp/Weight.lean
Comment (jcommelin) [reply Mathlib/Data/Finsupp/Weight.lean]: It looks like the GitHub interface doesn't understand my suggestion. Anyways, I suggest a change to the docstring of `degree`, and then some further refactors, all the way down to `degree_zero` (which I'm moving higher up).

Comment (WenrongZou) [reply Mathlib/Data/Finsupp/Weight.lean]: > It looks like the GitHub interface doesn't understand my suggestion. Anyways, I suggest a change to the docstring of `degree`, and then some further refactors, all the way down to `degree_zero` (which I'm moving higher up).

I thought about modifying `degree` to be an `AddMonoidHom`, namely `degree : (σ →₀ R) →+ R`. But I afraid this would destroy some projects.

Comment (jcommelin) [reply Mathlib/Data/Finsupp/Weight.lean]: I don't think you have to worry about that. Mathlib is used to defs changing/improving.
So go for it!

Comment (WenrongZou) [reply Mathlib/Data/Finsupp/Weight.lean]: Thank you for your suggestions!

File: Mathlib/Data/Finsupp/Weight.lean [hunk 4]
```diff
@@ -205,28 +205,37 @@ end CanonicallyOrderedAddCommMonoid
...
+  toFun := fun d => ∑ i ∈ d.support, d i
+  map_zero' := by simp
+  map_add' := fun _ _ => sum_add_index' (h := fun _ ↦ id) (congrFun rfl) fun _ _ ↦ congrFun rfl
+
+theorem degree_def (d : σ →₀ R) : degree d = ∑ i ∈ d.support, d i := rfl
 
 theorem degree_eq_sum [Fintype σ] (f : σ →₀ R) : f.degree = ∑ i, f i := by
-  rw [degree, Finset.sum_subset] <;> simp
+  simp [degree]
+  rw [Finset.sum_subset] <;> simp
```
Comment (jcommelin) [inline Mathlib/Data/Finsupp/Weight.lean]:
```suggestion
  rw [degree_def, Finset.sum_subset] <;> simp
```

File: Mathlib/Data/Finsupp/Weight.lean [hunk 5]
```diff
@@ -205,28 +205,37 @@ end CanonicallyOrderedAddCommMonoid
...
+
+@[simp]
+theorem degree_add (a b : σ →₀ R) : (a + b).degree = a.degree + b.degree := degree.map_add _ _
```
Comment (jcommelin) [inline Mathlib/Data/Finsupp/Weight.lean]: I think you can now drop this lemma entirely. It's just `map_add`.

File: Mathlib/Data/Finsupp/Weight.lean [hunk 6]
```diff
@@ -205,28 +205,37 @@ end CanonicallyOrderedAddCommMonoid
...
+theorem degree_sum {ι : Type*} [DecidableEq ι] {s : Finset ι} (f : ι → σ →₀ ℕ) :
+    (∑ i ∈ s, f i).degree = ∑ i ∈ s, (f i).degree := map_sum degree f s
 
 @[simp]
 theorem degree_single (a : σ) (r : R) : (Finsupp.single a r).degree = r :=
   Finsupp.sum_single_index (h := fun _ => id) rfl
 
 @[simp]
-theorem degree_zero : degree (0 : σ →₀ R) = 0 := by simp [degree]
+theorem degree_zero : degree (0 : σ →₀ R) = 0 := degree.map_zero
```
Comment (jcommelin) [inline Mathlib/Data/Finsupp/Weight.lean]: Idem dito, you can drop this lemma.

File: Mathlib/Data/Finsupp/Weight.lean [hunk 7]
```diff
@@ -205,28 +205,37 @@ end CanonicallyOrderedAddCommMonoid
...
+  simp [degree]
+  rw [Finset.sum_subset] <;> simp
+
+@[simp]
+theorem degree_add (a b : σ →₀ R) : (a + b).degree = a.degree + b.degree := degree.map_add _ _
 
 @[simp]
-theorem degree_add (a b : σ →₀ R) : (a + b).degree = a.degree + b.degree :=
-  sum_add_index' (h := fun _ ↦ id) (congrFun rfl) fun _ _ ↦ congrFun rfl
+theorem degree_sum {ι : Type*} [DecidableEq ι] {s : Finset ι} (f : ι → σ →₀ ℕ) :
```
Comment (jcommelin) [inline Mathlib/Data/Finsupp/Weight.lean]: Idem dito, you can drop this lemma.

File: Mathlib/RingTheory/MvPowerSeries/Substitution.lean [hunk 8]
```diff
@@ -477,7 +477,7 @@ lemma rescale_homogeneous_eq_smul {n : ℕ} {r : R} {f : MvPowerSeries σ R}
   simp only [MvPowerSeries.coeff_rescale, map_smul, Finsupp.prod, Function.const_apply,
     Finset.prod_pow_eq_pow_sum, smul_eq_mul]
   by_cases he : e ∈ f.support
-  · rw [← hf e he, Finsupp.degree]
+  · simp [← hf e he, Finsupp.degree]
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPowerSeries/Substitution.lean]: Not so important, but this is maybe a slightly more local way of adapting to the change.
```suggestion
  · rw [← hf e he, Finsupp.degree_def]
```

File: Mathlib/RingTheory/MvPolynomial/Homogeneous.lean [hunk 9]
```diff
@@ -133,7 +133,7 @@ alias ⟨isHomogeneous_of_totalDegree_zero, _⟩ := totalDegree_zero_iff_isHomog
 
 theorem isHomogeneous_C (r : R) : IsHomogeneous (C r : MvPolynomial σ R) 0 := by
   apply isHomogeneous_monomial
-  simp only [Finsupp.degree, Finsupp.zero_apply, Finset.sum_const_zero]
+  simp [Finsupp.degree, Finsupp.zero_apply, Finset.sum_const_zero]
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPolynomial/Homogeneous.lean]:
```suggestion
  simp only [Finsupp.degree_def, Finsupp.zero_apply, Finset.sum_const_zero]
```

File: Mathlib/Data/Finsupp/Weight.lean (hunk 5 above)
Comment (WenrongZou) [reply Mathlib/Data/Finsupp/Weight.lean]: I tried to drop this, but will lead to some more mistake in other files. I am trying to fix it. Or we could just keep it?

Comment (jcommelin) [reply Mathlib/Data/Finsupp/Weight.lean]: I'm hoping that the amount of fixing will be small. Let me know if that's not the case.

**Comment by WenrongZou** [comment]
I delete some lemmas and fix bugs in other files. Thanks for the suggestions.

**Comment by WenrongZou** [comment]
> This looks good to me now. Thanks for your help by improving Mathlib with this small refactor.
> 
> For future contributions:
> 
> * If you have processed certain comments, please resolve them by clicking the "Resolve conversation" button.
> * If you have processed all open comments, or responded with further questions, and the PR is ready for reviewer attention again, remove the `awaiting-author` label by writing:
> 
> -awaiting-author

Thank you for your help! I would do it next time!

File: Mathlib/Data/Finsupp/Weight.lean [hunk 10]
```diff
@@ -205,27 +205,25 @@ end CanonicallyOrderedAddCommMonoid
...
 /-- The degree of a finsupp function. -/
-def degree (d : σ →₀ R) : R := ∑ i ∈ d.support, d i
+def degree : (σ →₀ R) →+ R where
+  toFun := fun d => ∑ i ∈ d.support, d i
+  map_zero' := by simp
+  map_add' := fun _ _ => sum_add_index' (h := fun _ ↦ id) (congrFun rfl) fun _ _ ↦ congrFun rfl
 
-theorem degree_eq_sum [Fintype σ] (f : σ →₀ R) : f.degree = ∑ i, f i := by
-  rw [degree, Finset.sum_subset] <;> simp
+theorem degree_def (d : σ →₀ R) : degree d = ∑ i ∈ d.support, d i := rfl
```
Comment (JovanGerb) [inline Mathlib/Data/Finsupp/Weight.lean:213]: Should this lemma be called `degree_apply`?

Comment (WenrongZou) [reply Mathlib/Data/Finsupp/Weight.lean:213]: Sure! I will change this.

Comment (WenrongZou) [reply Mathlib/Data/Finsupp/Weight.lean:213]: Thank you for your suggestion. I created a new PR to rename this. #32179
